US07910588B2
Add 1,1,3,3-tetramethoxypropane (8.2 g, 50 mmol) to a mixture of 2,5-difluorophenylhydrazine (9.022 g, 62.6 mmol) and hydrochloric acid (5M, 5 mL, 25 mmol) in ethanol (50 mL) and heat and stir under reflux under nitrogen for 17 hr. Cool the mixture, evaporate the ethanol in vacuo, suspend the residue in DCM (80 mL), filter the DCM solution and pass through an SCX-2 column. Collect the eluent and pass through a second SCX2 column and evaporate the eluent to give 1-(2,5-difluoro-phenyl)-1H-pyrazol as a liquid (8.79 g, 97%). MS (m/z): 181 (M+1).

reactant | 1,1,3,3-tetramethoxypropane | 50 mmol, 8.2 g | COC(CC(OC)OC)OC | C7H16O4
reactant | 2,5-difluorophenylhydrazine | 62.6 mmol, 9.022 g | FC1=C(C=C(C=C1)F)NN | C6H6F2N2
reactant | hydrochloric acid | 25 mmol, 5M, 5 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(2,5-difluoro-phenyl)-1H-pyrazol | 8.79 g, 97% | FC1=C(C=C(C=C1)F)N1N=CC=C1 | C9H6F2N2
